US07314872B2
4,4-Dimethyl-pent-2-enoic acid methyl ester (8.52 g, 60.0 mmol) was dissolved in MeOH (30 mL) and ethyl acetate (30 mL). Palladium on carbon (10 wt %) (˜50 mg) was added to the reaction and was placed under a H2 balloon (1 atm). The reaction was allowed to stir for 12 hours, flushed with nitrogen and filtered over a pad of celite. Evaporated to provide 4,4-dimethyl-pentanoic acid methyl ester (7.0 g, 48.5 mmol, 81%) as a colorless oil: 1H NMR (CDCl3, 400 MHz) δ 0.89 (s, 9H), 1.53-1.57 (m, 2H), 2.26-2.30 (m, 2H), 3.67 (s, 3H).

reactant | 4,4-Dimethyl-pent-2-enoic acid methyl ester | 60.0 mmol, 8.52 g | COC(C=CC(C)(C)C)=O | C8H14O2
solvent | MeOH | 30 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | ˜50 mg | [Pd] | Pd
product | 4,4-dimethyl-pentanoic acid methyl ester | 48.5 mmol, 7.0 g, 81% | COC(CCC(C)(C)C)=O | C8H16O2
